US04447361
N-Methyl-N-[3-(11H-pyrido[2,3-b][1,4]benzodiazepine-11-yl)propyl]carbamic acid methyl ester
The title compound is prepared by reacting 6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine and (3-chloropropyl)methylcarbamic acid methyl ester.

reactant | 6-phenyl-11H-pyrido[2,3-b][1,4]benzodiazepine | C1(=CC=CC=C1)C1=NC2=C(NC3=C1C=CC=C3)N=CC=C2 | C18H13N3
reactant | (3-chloropropyl)methylcarbamic acid methyl ester | COC(N(C)CCCCl)=O | C6H12ClNO2
product | N-Methyl-N-[3-(11H-pyrido[2,3-b][1,4]benzodiazepine-11-yl)propyl]carbamic acid methyl ester | COC(N(CCCN1C2=C(N=CC3=C1C=CC=C3)C=CC=N2)C)=O | C18H20N4O2
